US07291632B2
The (3-bromo-5-fluorophenyl)-methyl-(1-methylpiperidin-4-yl)-amine intermediate is then aminated at the benzo 3-position, as for example, by reacting the intermediate with BINAP, Pd2dba3, benzhydrylideneamine, and sodium t-butoxide, in a suitable solvent, such as toluene or the like, under an inert atmosphere for about 1–3 hr., say about 2 hr., at about 50° C. to 100° C., say about 80° C. The resulting intermediate is treated with 1M HCL or the like in a suitable solvent, such as THF at 0° C. to ambient temperature, preferably ambient temperature for 1–2 hours, say about 1 hr. The resulting intermediate, 5-Fluoro-N-methyl-N-(1-methylpiperidin-4-yl)benzene-1,3-diamine may then be isolated and purified by common procedures such as, but not limited to, solvent removal, extraction and/or chromatography, etc.

reactant | (3-bromo-5-fluorophenyl)-methyl-(1-methylpiperidin-4-yl)-amine | BrC=1C=C(C=C(C1)F)N(C1CCN(CC1)C)C | C13H18BrFN2
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | benzhydrylideneamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium t-butoxide | CC(C)([O-])C.[Na+]
catalyst | Pd2dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Fluoro-N-methyl-N-(1-methylpiperidin-4-yl)benzene-1,3-diamine | FC=1C=C(C=C(C1)N(C1CCN(CC1)C)C)N | C13H20FN3
